US06992094B1
Ethyl 6-[3-(7-methoxycarbonylheptyloxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl]-nicotinate
In a manner similar to that of Example 51, by reaction of 460 mg (1.06 mmol) of ethyl 6-(3-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro 2-naphthylselanyl)nicotinate with 515 mg (2.17 mmol) of methyl 8-bromooctanoate and 295 mg of potassium carbonate in MEK (10 ml), 487 mg (78%) of a yellow oil are obtained.

reactant | ethyl 6-(3-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro 2-naphthylselanyl)nicotinate | 1.06 mmol, 460 mg | OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=NC=C(C(=O)OCC)C=C1 | C22H27NO3Se
reactant | methyl 8-bromooctanoate | 2.17 mmol, 515 mg | BrCCCCCCCC(=O)OC | C9H17BrO2
reactant | potassium carbonate | 295 mg | C([O-])([O-])=O.[K+].[K+]
solvent | MEK | 10 ml | CCC(=O)C | C4H8O
product | Ethyl 6-[3-(7-methoxycarbonylheptyloxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl]-nicotinate | COC(=O)CCCCCCCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=NC=C(C(=O)OCC)C=C1 | C31H43NO5Se
